US05278326
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-β-oxo-1-phenyl-cyclopentanepropanamide
The title compound was prepared from β-oxo-1-phenylcyclopentanepropanoic acid ethyl ester (8.0 g, 0.03 mol), 1,4-diazabicyclo[2.2.2]octane (34.4 g, 0.30 mol) and xylenes (54.8 ML, 15.0 eq) using the procedure described in Example 3, Step B. 1H NMR (ppm, CDCl3): 1.62-1.73 (m, 4H), 1.85-1.90 (m, 2H), 1.93 (s, 3H, CH3), 2.43-2.52 (m, 2H), 7.20-7.36 (m, 5H).

reactant | β-oxo-1-phenylcyclopentanepropanoic acid ethyl ester | 0.03 mol, 8.0 g | C(C)OC(CC(C1(CCCC1)C1=CC=CC=C1)=O)=O | C16H20O3
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.30 mol, 34.4 g | N12CCN(CC1)CC2 | C6H12N2
product | N-[2,6-bis(1-methylethyl)phenyl]-β-oxo-1-phenyl-cyclopentanepropanamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CC(C1(CCCC1)C1=CC=CC=C1)=O)=O | C26H33NO2
